Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[H:7][H:8].[O:1]=[C:2]([C:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],72.4086002343157
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]([C:2](=[O+:3][C-:4]([H:10])[H:11])[H:9])([C:5]([C:6]#[N:7])([H:12])[H:13])[H:8],75.28900640548329
[C:1]([C@@:2]1([H:11])[O:3][C:7]([H:13])=[C:6]([H:12])[C:4]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],99.8416618202713
[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([C:5]#[C:6][H:14])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],49.4072123475288
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O-:1][C:2](=[C+:3][C:4]([N:5]([C:6](=[O:7])[H:12])[H:9])([H:10])[H:11])[H:8],63.467205145703495
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:7]([H:13])[H:14])([H:8])([H:9])[H:10].[C:2]([C:3](=[O:4])[H:12])(=[C:5]=[O:6])[H:11],79.0340665864349
[H:8][H:9].[O:1]1[C:2]([H:7])=[N:3][C@@:4]1([C:5]#[N:6])[H:10]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],45.1062048018017
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C:3]([C@@:4]1([H:12])[C-:5]([H:13])[C:6]([H:15])([H:16])[C:7]1([H:14])[H:17])[H:11])([H:8])([H:9])[H:10],106.789264446924
[C:1]([N:2]([H:8])[H:11])([H:9])[H:10].[C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],11.748334599587892
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:12])([H:13])[C:4]1([H:11])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10].[C:5](=[O:6])([H:14])[H:15],78.4246993651753
[O:1]([C:2]([C:3]([C@@:4]1([H:13])[C:6]([O:5][H:14])=[C:7]1[H:15])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],52.8998914668379
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[H:8][H:9].[N:1]1=[C:2]([C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[O:3]1,97.78021946821579
[O:1]([C@:2]1([H:9])[C@@:3]2([H:11])[C+:4]=[C:5]([H:12])[N-:7][C@@:6]12[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],60.718665172523195
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([H:11])[C:6][C:7]1([H:10])[H:15],93.740266931856
[C:1]([C:2](=[O:3])[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.94384605233543
[O:1]=[C:2](/[C:3](=[N:4]/[H:9])[O:7][N+:6]#[C-:5])[H:8]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],21.372468583153413
[O:1]([C:2](=[C:3]([H:8])[H:9])[C:4]#[C:5][H:10])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],82.9323825069293
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([N:7]([C@@:6]1([H:12])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5]1)[H:13])([H:8])[H:9],99.0169199230429
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([C:5]#[C:6][H:14])[H:11],69.8717054809138
[O:1]([C:2]([C:3]([C:5]#[N:6])([H:9])[H:10])([O:4][H:11])[H:8])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],99.1569307146226
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:4]([C:5]([C:6]([O:7][H:9])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:16].[N:1](=[C:2]=[O:3])[H:8],61.5031638177071
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:5]=[N:6][H:10].[N:1]1=[C:2]2[C:3]([H:7])([H:8])[C@@:4]12[H:9],129.34430647003902
[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8]>>[N:1]1([H:8])[C:2](=[O:7])[C@:3]1([C@:4]1([H:10])[C:5]([H:11])=[N:6]1)[H:9],56.6410177470497
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:5](=[O:6])[H:12])([H:7])([H:8])[H:9].[N:2]#[C:3][N:4]([H:10])[H:11],79.99993511344842
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:2](=[O:3])=[C:4]([O:5][C:6](=[O:7])[H:12])[H:10].[N:1]([H:8])([H:9])[H:11],67.399514080497
